Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lipitor
 
Attending: ___
 
Chief Complaint:
left arm cellulitis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ y/o female with a history of breast cancer 
(left sided s/p excision, chemotherapy in ___, then in ___ 
developed new ER+ infiltrating ductal carcinoma s/p excision, 
letrozole) c/b chronic lymphedema of left arm who presented to 
the ED on ___ with confusion and arm redness. Patient reports 
that she was at her ___ class 2 days ago and cut her 
hand while working with the floral arrangements. She 
subsequently developed erythema and swelling of her left arm as 
well as chills and subjective fevers. She also reports 
developing full body aches and confusion (which has happened to 
her in the past with prior episodes of cellulitis).  
 
In the ED, initial vitals: T 100.2, HR 94, BP 111/54, RR 18, 98% 
RA.  
Labs were significant for WBC 11.7, Hb 11.9, PLT 167, Na 132, 
Glucose 134, Cr 0.9, lactate 1.3, UA <1 WBC. An US of the LUE 
was performed and was negative for DVT. Patient received vanc 1g 
x2 (last dose at 1600), ampicillin-sulbactam 3 gm IV x1, 1L IVF, 
APAP 1000 mg x1. 
   
Vitals prior to transfer: T 98.9, HR 75, BP 118/49, RR 21, 100% 
RA.
  
Upon arrival to the floor, T 97.7, BP 152/89, HR 85, RR 18, 100% 
RA, 152/89. Patient was A+Ox3 and complained of moderate left 
arm pain, but states that the pain improved since presentation.  

 
ROS:  
In addition to the above, patient denies weight loss, appetite 
changes. Also denies CP, SOB, cough, abdominal pain, 
nausea/vomiting, diarrhea. Has lower extremity edema at baseline 
for which she takes HCTZ. Of note, patient was recently treated 
as an outpatient for pneumonia. Denies recent hospitalizations. 
Traveled to ___ in the past month.  
 
Past Medical History:
breast cancer (left sided s/p excision, chemotherapy, radiation 
in ___, then in ___ developed new ER+ infiltrating ductal 
carcinoma s/p excision, letrozole)
HTN
?asthma v. reactive airways
chronic lymphedema of left arm
h/o recent pneumonia
 
Social History:
___
Family History:
Significant for breast cancer in daughter, sister.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
==========================
VS:  T 97.7, BP 152/89, HR 85, RR 18, 100% RA, 152/89
GEN: Alert, lying in bed, no acute distress  
HEENT: PERRL, EOMI, sclera anicteric, oropharynx normal w/o 
ulceration 
NECK: Supple without LAD, no JVD
LN: no cervical, supraclavicular, or axillary LAD  
PULM: CTAB, no w/r/r  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended, normal bowel sounds, no 
hepatosplenomegaly  
EXTREM: left arm with erythema extending from wrist to shoulder, 
1+ pitting edema of arm, tender to touch, + induration at left 
elbow but no fluctuance appreciated; no pain with active/passive 
ROM of left wrist, elbow, shoulder; + linear abrasion over ___ 
left digit w/o surrounding erythema; <2 sec cap refill, intact 
sensation; trace peripheral edema in b/l lower extremities
NEURO: CN II-XII grossly intact, motor function grossly normal

DISCHARGE PHYSICAL EXAM
==========================
VS: Tc 98.6, 134/67 (118-134/60's), 66 (60-70's), 18, 94% RA 
GEN: Alert, lying in bed, no acute distress  
HEENT: PERRL, EOMI, sclera anicteric, oropharynx normal w/o 
ulceration   
PULM: CTAB, no w/r/r  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended, normal bowel sounds, no 
hepatosplenomegaly  
EXTREM: minimal erythema of left arm, trace pitting edema of 
left arm, no pain with active/passive ROM of left wrist, elbow, 
shoulder; + linear abrasion over ___ left digit w/o surrounding 
erythema; <2 sec cap refill, intact sensation; trace peripheral 
edema in b/l lower extremities. RUE without erythema or edema
NEURO: CN II-XII grossly intact, motor function grossly normal 
 
Pertinent Results:
ADMISSION LABS
=================
___ 03:20AM BLOOD WBC-11.7*# RBC-3.71* Hgb-11.9 Hct-35.2 
MCV-95 MCH-32.1* MCHC-33.8 RDW-13.1 RDWSD-45.2 Plt ___
___ 03:20AM BLOOD Glucose-134* UreaN-17 Creat-0.9 Na-132* 
K-4.1 Cl-94* HCO3-27 AnGap-15
___ 03:25AM BLOOD Lactate-1.3

DISCHARGE LABS
=================

___ 07:50AM BLOOD WBC-4.3# RBC-3.82* Hgb-11.9 Hct-37.0 
MCV-97 MCH-31.2 MCHC-32.2 RDW-13.2 RDWSD-47.5* Plt ___
___ 07:50AM BLOOD Glucose-104* UreaN-9 Creat-0.8 Na-141 
K-4.0 Cl-105 HCO3-31 AnGap-9
___ 07:50AM BLOOD ALT-21 AST-31 AlkPhos-52 TotBili-0.3
___ 07:50AM BLOOD Calcium-9.3 Phos-2.8 Mg-2.0

MICRO
================
BCx pending

IMAGING 
================
LUE US
No evidence of deep vein thrombosis in the left upper extremity.

RUE US
No evidence of deep vein thrombosis in the right upper 
extremity.

 
Brief Hospital Course:
Ms. ___ is a ___ y/o female with a history of breast cancer 
c/b chronic lymphedema of left arm who presented to the ED on 
___ with left arm cellulitis.

# Left Arm Cellulitis: Patient reports minor trauma to left hand 
while working with a ___ and subsequently developed 
erythema and swelling of her left arm. She was started on vanc 
and unasyn (day 1: ___ with clinical improvement. Ultrasound 
was negative for DVT. Her arm was wrapped and elevated. She was 
discharged with PO keflex and bactrim to complete a total 7 day 
course (day ___. 

# Confusion: Patient was reportedly confused in the ED which was 
attributed to fever and acute infection. Her confusion quickly 
resolved with treatment of her cellulitis. 

TRANSITIONAL ISSUES
=========================
- discharged patient with PO Keflex and Bactrim to complete a 
total 7 day course (day ___: ___. 
- continue to wrap left arm and elevate
- f/u pending blood culture
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 12.5 mg PO DAILY:PRN swelling 
2. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheeze 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheeze 
2. Acetaminophen 1000 mg PO Q8H:PRN pain 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 8 hours Disp 
#*60 Tablet Refills:*0
3. Hydrochlorothiazide 12.5 mg PO DAILY:PRN swelling 
4. Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 tablet(s) by mouth every 6 hours Disp 
#*20 Tablet Refills:*0
5. Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*10 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: cellulitis
Secondary diagnosis: lymphedema 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you during your 
hospitalization. You were admitted with a cellulitis of your 
left arm. You were treated with antibiotics and your symptoms 
improved. You will be discharged with antibiotics and will 
follow up with your primary care doctor. 

We wish you the best,
Your ___ Team
 
Followup Instructions:
___